Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
gluten
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
Diarrhea
 
Major Surgical or Invasive Procedure:
EGD
Colonoscopy

 
History of Present Illness:
___ with suspected ___ Crohn's and celiac disease (on 
gluten free diet since ___, referred to the ED by his 
gastroenterologist for 9 days of gradually worsening bilateral 
flank pain, diarrhea, and inability to tolerate POs. He reports 
that he has been having at least 10 episodes of watery diarrhea 
ranging from ___ flecks" to "oily greasy unformed pellets".  
Says his flank pain radiates to the front, as food passes 
through his GI tract.  Says these "attacks" last ___ hours at a 
time, and are often worse at bedtime. For his pain he has been 
taking Tylenol with good effect.  Per OMR it appears he has also 
taken tramadol for severe pain as well. Denies any hematochezia 
or melena. Denies any weakness, numbness, tingling. Denies any 
urinary symptoms or bowel/bladder incontinence/retention. 
Patient was seen by Dr ___ GI on ___ for the same 
symptoms. Per OMR, Dr. ___ that his symptoms may not 
be consistent with Crohn's and could be due to IBS or celiac 
disease. Dr. ___ scheduled him for outpatient 
EGD/colonoscopy and MRE, but given worsening symptoms, patient 
referred to the ED for expedited workup. Of note, he was 
recently tapered off the 2.5 mg prednisone at that time.  

In the ED, initial vital signs were: T 98  HR 87 BP 133/78  RR 
18  SaO2 99% on RA.
- Exam notable for: No abdominal tenderness, no CVAT, guaiac 
negative brown stool.
- Labs were notable for: Lactate 2.2 with repeat lactate 1.9, 
elevated CRP 6.1, WBC 4.2, H/H 16.___, BUN/Cr ___, neg UA. 
- Studies performed include: O&Px2, blood cx, stool cx, CRP, ESR
- Patient was given: 1L NS IVF  
- Vitals on transfer:  T98  HR 83  BP 127/79  RR 15  SaO2 100% 
on RA

Upon arrival to the floor, the patient hemodynamically stable, 
resting comfortably with wife at bedside. 

 
Past Medical History:
1.  Celiac disease
2.  Question of Crohn's disease
3.  GERD
4.  s/p R hernia repair ___ years ago
5.  Testicular torsion ___ years ago
6.  DJD of lumbar spine

 
Social History:
___
Family History:
Father with colon cancer
Mother, sister, aunt and uncle with celiac disease (not 
serologically confirmed).
Sister, brother with cystic fibrosis

 
Physical Exam:
ON ADMISSION:
--------------
Vitals: T98.3   BP 131/88  HR 83   RR 18   SaO2 96% on RA
Wt on admission: 183.7 lbs 
GEN:  No acute distress.
HEENT: Neck supple, JVD flat. MMM. No OP lesions. No LAD.
CV:  RRR, nl S1/S2.  No murmurs, rubs, or gallops.
Lungs:  CTAB.  No rales, wheezes, or rhonchi.
Abdomen: Soft, obese, nontender, BS+.  ___ surgical scar 
R groin.
Ext: WWP, no c/c/e.
Neuro: A&Ox3, ___ grossly intact.
Skin: No rashes or lesions noted.

ON DISCHARGE:
--------------
Vitals: T 98.4  BP ___  HR ___  RR ___ SaO2 97% on 
RA
Wt on admission: 183.7 lbs 
GEN:  No acute distress.
HEENT: Neck supple, JVD flat. MMM. No OP lesions. No LAD.
CV:  RRR, nl S1/S2.  No murmurs, rubs, or gallops.
Lungs:  CTAB.  No rales, wheezes, or rhonchi.
Abdomen: Soft, obese, mild R flank tenderness, BS+.  No rebound 
or guarding. ___ surgical scar R groin.
Ext: WWP, no c/c/e.
Neuro: A&Ox3, ___ grossly intact.
Skin: No rashes or lesions noted.
 
Pertinent Results:
ON ADMISSION:
==============
___ 12:28PM BLOOD ___ 
___ Plt ___
___ 12:28PM BLOOD ___ 
___ Im ___ 
___
___ 12:28PM BLOOD Plt ___
___ 12:28PM BLOOD ___ 
___
___ 12:28PM BLOOD ___ 
___

___ 12:28PM BLOOD ___
___ 07:10AM BLOOD ___
___ 06:40AM BLOOD ___
___ 06:42AM BLOOD ___

___ 12:44PM BLOOD ___
___ 07:16PM BLOOD ___

OTHER STUDIES:
===============
Imaging: 
CXR ___:
IMPRESSION:  Heart size and mediastinum are normal in 
appearance.  Right lung is clear.  There is left mid and lower 
lung opacities, that in the absence of the previous studies 
unclear if represent chronic scar or new left lower lobe 
infection.  No pleural effusion or pneumothorax is seen.  When 
previous studies become available, addendum will be gladly 
added. 

EGD ___:
Findings: 
- Esophagus: Excavated Lesions The patient developed some 
wretching during procedure and small blood was noted in the 
esophagus. A ___ tear with mild oozing blood was seen 
in the gastroesophageal junction.  A ___ ring was 
noted near the GE junction. The gastroscope traversed through 
easily.   
- Stomach:  Mucosa: Normal mucosa was noted. Cold forceps 
biopsies were performed for histology at the antrum (GC+LC), 
body (GC+LC), incisura.  
- Duodenum:  Mucosa: Normal mucosa was noted. Cold forceps 
biopsies were performed for histology at the second part of the 
duodenum.  
- Impression: 
___ tear
Normal mucosa in the stomach (biopsy)
Normal mucosa in the duodenum (biopsy)
A ___ ring was noted near the GE junction. The 
gastroscope traversed through easily.
Otherwise normal EGD to third part of the duodenum 
Recommendations: 
- ___ biopsies
- monitor H/H
- start PPI 40mg daily
- call GI fellow if evidence of hemodynamically significant 
bleeding. 

Colonoscopy ___
Findings:  
Mucosa: Erythema, friability and ulceration with contact 
bleeding were noted in the terminal ileum. These findings are 
compatible with Crohn's. Cold forceps biopsies were performed 
for histology at the terminal ileum. Normal mucosa was noted in 
the whole colon. Cold forceps biopsies were performed for 
histology at the right colon. Cold forceps biopsies were 
performed for histology at the left colon.  
Impression: Erythema, friability and ulceration in the terminal 
ileum compatible with Crohn's (biopsy)
Normal mucosa in the whole colon (biopsy, biopsy)
Otherwise normal colonoscopy to terminal ileum 

LABS ON DISCHARGE:
===================
___ 06:42AM BLOOD ___ 
___ Plt ___
___ 06:42AM BLOOD Plt ___
___ 06:42AM BLOOD ___ ___
___ 06:42AM BLOOD ___ 
___
___ 06:42AM BLOOD ___ with suspected ___ Crohn's and celiac disease, 
referred to the ED by GI for abdominal pain, diarrhea and 
inability to tolerate POs, found to have a Crohn's flare.

# Crohn's Flare: Patient presented with ~9 days of abdominal 
pain, diarrhea, and poor PO intake. In the ED, labs notable for 
an elevated lactate.  On admission, patient was clinically 
stable with reassuring exam and resolved lactic acidosis.  
Diagnosed with Crohn's flare on ___ via colonoscopy, which 
showed erythema, friability, and ulceration with contact 
bleeding in the terminal ileum compatible with Crohn's. The 
colon was otherwise normal. Cold forceps biopsies were performed 
for histological confirmation.  Preliminary MRE with ~28cm 
segment of active disease in the small bowel in the left 
___, without evidence of obstruction, fistula, or 
abscess. Given concern for ileal Crohn's, gastroenterology 
evaluated patient and discussed the goals of treatment, ideal 
goal of mucosal healing, risks/benefits of steroids, and 
potential use of ___ agents in the future. Patient also 
seen by nutrition for education regarding Crohn's diet and 
continued on a low residue diet while in house. Patient had a 
good understanding of diet and would expect good compliance.  
Patient given IV fluid hydration and completed a ___ course of 
IV solumedrol 20mg Q8H with symptomatic improvement and 
transitioned to 40mg prednisone with plan to titrate as an 
outpatient with GI.  Patient reported symptomatic improvement 
with a decrease in BMs from 10 BMs/day to ___ BMs/day ___ 
hours on IV solumedrol. Patient underwent infectious ___ 
with negative CDiff and negative stool cultures for Salmonella, 
Shigella, Campylobacter, E. coli, ova/parasites, and 
cryptosporidium/giardia.  Patient scheduled for ___ with 
his gastroenterologist on ___.

# ___ tear: Patient wretched during EGD and developed 
a small ___ tear. There was mild oozing, which stopped 
spontaneously and required no intervention. Patient was HD 
stable throughout his hospitalization without any evidence of 
active bleeding or hematemesis. We monitored his CBC's which 
were stable and maintained an active type & screen.  Patient was 
on a standing dose of Zofran for ___ days with EKG for QTc 
monitoring.
 
# Celiac disease: Diagnosed at age ___ per patient, who says he 
has been on a gluten free diet since ___. Patient with strong 
family history of celiac disease. Diagnosis has never been 
confirmed serologically, but balloon enteroscopy with e/o 
increased IELs c/w active infection. No e/o rashes, no h/o 
biopsy proven DH. Serologies may be negative in setting of 
strict adherence to gluten free diet. Has been refractory to 
antisecretory medications, including Aciphex. ___ have secondary 
lactose intolerance.  Patient continued on ___ diet 
while in house. Given recent serologies on ___, we held off on 
further workup for celiac disease. We continued patient's home 
dose of Rifaximin 550 mg PO TID for small bacterial overgrowth.

# Nutrition: Patient with 4.8 lb decrease during hospitalization 
over three days. Said the day prior to admission was the first 
day he was able to eat and tolerate full meals. Says Ensures 
cause diarrhea/bloating, avoids milk/dairy. Nutrition 
recommended low residue, ___ diet and ___ as an 
outpatient with RD. Patient had good understanding of the diet 
and would expect good compliance.

# GERD: Not on treatment at home. Pantoprazole BID to QD on 
discharge.

# Insomnia: Treated with trazadone prn with good effect.

=============================
TRANSITIONAL ISSUES:
=============================
# New medications:
- Prednisone 40mg QD (D1: ___
- Pantoprazole 40mg QD
# ___:
- Gastroenterology appointment with Dr. ___
- ___ MRE final read with GI appointment
- Please ___ blood culture from ___ at ___ appointment
- ___ pathology from cold forceps biopsies performed for 
histological confirmation of Crohn's
- Please ___ results of CXR on ___ with ?LLL infection 
(note, patient had an indeterminate Quantiferon Gold)
- Avoid NSAIDs and narcotics as can portend poor outcomes in IBD
- ___ with nutrition/RD as an outpatient. Patient provided 
with phone # and instructions on how to arrange ___ in outpatient clinic.
# Code Status: FULL CODE 
# Emergency Contact/HCP: ___ 
    Relationship: WIFE 
    Phone: ___ 
    Other Phone: ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Rifaximin 550 mg PO TID 
2. colestipol 5 grams oral 4 packs daily 
3. Acetaminophen 500 mg PO Q6H:PRN pain 

 
Discharge Medications:
1. Acetaminophen 500 mg PO Q6H:PRN pain 
2. colestipol 5 grams oral 4 packs daily 
3. Rifaximin 550 mg PO TID 
4. PredniSONE 40 mg PO DAILY 
RX *prednisone 20 mg 2 tablet(s) by mouth once a day Disp #*24 
Tablet Refills:*0
5. Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: 
Crohn's flare 
___ tear 
 
Secondary Diagnosis: 
Celiac disease 
GERD 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure to take care of you at ___.  You were 
admitted to the hospital for abdominal pain, diarrhea, and poor 
PO intake.  We performed an upper endoscopy and colonoscopy 
which showed that you have active Crohn's disease.  With the 
assistance of the gastroenterology team, we started you on IV 
steroids for treatment of your Crohn's flare and also obtained 
some tests that you may need in preparation for any future 
treatments.  We consulted nutrition to see you for assistance 
with modification of your diet to accommodate a Crohn's flare.  
You also developed ___ tear in your esophagus from 
vomiting, but you remained stable without any evidence of active 
bleeding.   You also underwent an imaging test of your small 
bowel called an MRE and the final report is pending.  We will 
have you ___ with Dr. ___ on ___ to 
review the results of your MRE. You should continue to take 
Prednisone 40mg daily until your follow up appointment with Dr. 
___. 

We obtained a CXR to screen for possible tuberculosis. Your 
chest xray showed a likely scar in your left lung. Prior to 
starting a new medication for your Crohn's disease, we recommend 
that you talk to your primary care doctor and your 
gastroenterologist regarding these chest xray findings. You may 
need a CT chest for further evalution, or if this scar is old, 
no further imaging may be necessary. 

Please take the medications we have prescribed and ___ 
with your doctors as we have scheduled below.

We wish you the very best,
-- Your ___ Care Team
 
Followup Instructions:
___